US07037925B2
6,7-Dimethoxy-4-(5,6,7,8-tetrahydro-1-naphtalenylamino)-3-quinolinecarboxamide
A mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide (0.090 g, 0.34 mmol), 5,6,7,8-tetrahydronaftylamine (0.062 g, 0.42 mmol) and acetic acid (80 μl) in DMF (1.6 ml) was heated at 100° C. for 3.5 h. After cooling the reaction mixture was diluted with water (20 ml) and made alkaline with 1 M NaOH. The precipitate was filtered, rinsed with water and dried to give the title compound (62 mg, 48%).

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 0.34 mmol, 0.090 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | acetic acid | 80 μl | C(C)(=O)O | C2H4O2
reactant | NaOH | 1 M | [OH-].[Na+]
reactant | DMF | 1.6 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | 6,7-Dimethoxy-4-(5,6,7,8-tetrahydro-1-naphtalenylamino)-3-quinolinecarboxamide | 62 mg, 48% | COC=1C=C2C(=C(C=NC2=CC1OC)C(=O)N)NC1=CC=CC=2CCCCC12 | C22H23N3O3
